.SUBCKT BSN20 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 6E-12
Cgd1 2 4 16.5E-12
Cgd2 1 4 2E-12
M1 1 2 3 3 MOST1 W=3.1m L=2u
M2 4 2 1 3 MOST2 W=3.1m L=2u
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.71u Rs=20m Vto=1 Rd=3.231)
.MODEL MOST2 NMOS(VTO=-5 Kp=20.71u Rs=20m)
.MODEL Dbody D(Is=56.31f N=1.084 Rs=467m Cjo=19.08p M=357.6m Vj=407.9m
+            Bv=50 Ibv=10u Tt=100n)
.ENDS