.SUBCKT BSP225   10 20 40
* 10=drain  20=gate  40=source
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  4.75
RS  30  3  .251
RG  20  2  6.67
CGS  2  3  59P
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  77P
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  3N
.MODEL DMOS PMOS (LEVEL=3 THETA=80M VMAX=521K ETA=2m VTO=-1.8 KP=.195)
.MODEL DCGD D (CJO=77P VJ=.6 M=.68)
.MODEL DSUB D (IS=934P N=1.5 RS=2.11 BV=250 CJO=60.2P VJ=.8 M=.42 TT=90.1N)
.MODEL DLIM D (IS=100U)
.ENDS