*BSP62T1 MCE 6/19/97
*Ref: Motorola Small-Signal Device Databook, Q4/94
*Si 1500mW 80V 500mA pkg:SOT-223 2,1,3
.SUBCKT BSP62T1  1 2 3
*    TERMINALS:  C B E
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
.MODEL QPWR PNP (IS=600F NF=1 BF=44.7 VAF=161 IKF=0.4 ISE=110P NE=2
+ BR=4 NR=1 VAR=20 IKR=0.6 RE=0.6 RB=2.4 RC=0.24 CJE=115P XTB=1.5
+ VJE=0.74 MJE=0.45 CJC=16.5P VJC=1.1 MJC=0.24 TF=98.5N TR=4.25U)
.ENDS 
* Origin: Mcebjt.lib
