.SUBCKT BSS192 1 2 3
Cgs  2 3 32.3E-12
Cgd1 2 4 180E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=19m L=2u
M2 4 2 1 3 MOST2 W=19m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.6 KP=10.61u RD=8.781 RS=20m)
.MODEL MOST2 PMOS(VTO=2.84 KP=10.61u RS=20m)
.MODEL Dbody D(CJO=115.9p VJ=0.6634 M=0.5435 IS=880.8f N=1.078 RS=2.034
+              TT=346.2n BV=200 IBV=10u)
.ENDS