.SUBCKT BSS87 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 36.5e-12
Cgd1 6 4 123e-12
Cgd2 1 4 3.5e-12
M1 5 6 3 3 MOST1 W=0.1 L=0.1e-6
M2 4 6 5 3 MOST2 W=5e-4 L=0.1e-6
D1 3 5 Dbody
Rd 5 1 Rtemp 4.1
Rg 2 6 10
.MODEL MOST1 NMOS(Level=3 Vto=1.8 Kp=1.63e-7 Eta=3e-6
+                Rs=0 Rd=0 Ld=0 Uo=500 Vmax=4e7
+                Xj=5e-7 Kappa=0.08 Nfs=3e12 Theta=5e-3 Tpg=1
+                Cgbo=0 Cgso=0 Cgdo=0 Delta=0.1 Is=0)
.MODEL MOST2 NMOS(Level=3 Vto=-3.3 Kp=1e-7 Eta=3e-6
+                Rs=0 Rd=0 Ld=0 Uo=500 Vmax=0
+                Xj=0 Kappa=0.2 Nfs=0 Theta=0 Tpg=1
+                Cgbo=0 Cgso=0 Cgdo=0 Delta=0 Is=0)
.MODEL Dbody D(Is=1e-14 N=0.8 Rs=0 Cjo=0 M=0.5 Vj=0.4
+                Bv=200 Ibv=10e-6 Tt=40e-9)
.MODEL Rtemp R(TC1=9e-3 TC2=3.1e-5)
.ENDS