*
.SUBCKT BST52 1 2 3
* For use with Microsim PSPICE please
* modify the AREA statement in this
* model:  e.g.
* SPICE:
* Q2 1 22 3 QBST52 AREA = 3.33
* PSPICE:
* Q2 1 22 3 QBST52 3.33
Q1 1 2 22 BST52  AREA = 1
Q2 1 22 3 BST52  AREA = 3.33
R1 22 3 118.1
D1 3 1 DIODE
.MODEL BST52 NPN(
+ IS = 6.501E-15
+ NF = 0.9913
+ ISE = 1.113E-14
+ NE = 2.5
+ BF = 102.4
+ IKF = 0.169
+ VAF = 275.3
+ NR = 1.163
+ ISC = 6.246E-15
+ NC = 1.042
+ BR = 19.35
+ IKR = 1000
+ VAR = 20
+ RB = 30.9
+ IRB = 0.0002
+ RBM = 2
+ RE = 0.3
+ RC = 3.583
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.63E-11
+ VJE = 0.79
+ MJE = 0.2652
+ TF = 1.009E-09
+ XTF = 252.1
+ VTF = 6.4
+ ITF = 2.99
+ PTF = 0
+ CJC = 7.9E-12
+ VJC = 0.49
+ MJC = 0.6503
+ XCJC = 0.5
+ TR = 9E-06
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.99)
*
.MODEL DIODE D(
+ IS = 2.833E-14
+ N = 0.9881
+ BV = 100
+ IBV = 1.5E-08
+ RS = 50
+ CJO = 4.9E-12
+ VJ = 0.4709
+ M = 0.15
+ FC = 0.89
+ TT = 1E-12
+ EG = 1.1
+ XTI = 3)
.ENDS
*