*
.SUBCKT BST62 1 2 3
* For use with Microsim PSPICE please
* modify the AREA statement in this
* model:  e.g.
* SPICE:
* Q2 1 22 3 QBST62 AREA = 3.33
* PSPICE:
* Q2 1 22 3 QBST62 3.33
Q1 1 2 22 BST62 AREA = 1
Q2 1 22 3 BST62 AREA = 3.33
R1 22 3 50
D1 1 3 DIODE
* For simulation of large signal
* switching please edit
* the model and replace
* R1 = 50  by  R1 = 100
*
.MODEL BST62 PNP(
+ IS = 1.001E-14
+ NF = 0.976
+ ISE = 1E-15
+ NE = 2.332
+ BF = 172.5
+ IKF = 0.4163
+ VAF = 70
+ NR = 0.9748
+ ISC = 1.782E-15
+ NC = 1.06
+ BR = 10.12
+ IKR = 0.005
+ VAR = 10
+ RB = 77.4
+ IRB = 2.05E-05
+ RBM = 0.001
+ RE = 0.3607
+ RC = 3.399
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 2.4E-11
+ VJE = 0.7005
+ MJE = 0.3739
+ TF = 1E-09
+ XTF = 2
+ VTF = 5
+ ITF = 5
+ PTF = 0
+ CJC = 9.199E-12
+ VJC = 0.446
+ MJC = 0.3962
+ XCJC = 1
+ TR = 9E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78)
*
.MODEL DIODE D(
+ IS = 1E-18
+ N = 0.6777
+ BV = 100
+ IBV = 1E-09
+ RS = 8
+ CJO = 5E-14
+ VJ = 0.446
+ M = 0.396
+ FC = 0.5
+ TT = 0
+ EG = 1.11
+ XTI = 3)
.ENDS
*