* BUF600X1 - DIAMOND BUFFER MACROMODEL SIMPLIFIED VERSION

*

* CREATED 8/92 KL

* REV.B  7/9/93 BCB : CLARIFICATION OF NODE SET INSTRUCTIONS

*

*  ------------------------------------------------------------------------ 

* |  NOTICE: THE INFORMATION PROVIDED HEREIN IS BELIEVED TO BE RELIABLE;   |

* |  HOWEVER; BURR-BROWN ASSUMES NO RESPONSIBILITY FOR INACCURACIES OR     |

* |  OMISSIONS.  BURR-BROWN ASSUMES NO RESPONSIBILITY FOR THE USE OF THIS  |

* |  INFORMATION, AND ALL USE OF SUCH INFORMATION SHALL BE ENTIRELY AT     |

* |  THE USER'S OWN RISK.  NO PATENT RIGHTS OR LICENSES TO ANY OF THE      |

* |  CIRCUITS DESCRIBED HEREIN ARE IMPLIED OR GRANTED TO ANY THIRD PARTY.  |

* |  BURR-BROWN DOES NOT AUTHORIZE OR WARRANT ANY BURR-BROWN PRODUCT FOR   |

* |  USE IN LIFE-SUPPORT DEVICES AND/OR SYSTEMS.                           |

*  ------------------------------------------------------------------------ 

* |-------------------------------------------------------------|

* |  This macro model is being supplied as an aid to            |

* |  circuit designs.  While it reflects reasonably close       |

* |  similarity to the actual device in terms of performance,   |

* |  it is not suggested as a replacement for breadboarding.    |

* |  Simulation should be used as a forerunner or a supplement  |

* |  to traditional lab testing.                                |

* |-------------------------------------------------------------|*

* NOTE : THIS MACRO MODEL WILL CONVERGE QUICKER BY USING THE 

*        NODESETS  V(Xyour.21)=+4.2847 AND  V(Xyour.24)=-4.2855 IN THE ROOT

*        SIMULATION FILE. ("Xyour" IS DEVICE NAME CALLED OUT IN

*        ROOT SIMULATION FILE.)

*

*

* CONNECTIONS:   POSITIVE POWER SUPPLY

*                | VOLTAGE IN

*                | | NEGATIVE POWER SUPPLY

*                | | | VOLTAGE OUT

*                | | | |

.SUBCKT BUF600X1 1 4 5 8

C208 8 0 2E-12

I21  21 24  0.1E-6

**

V41  1 41  1.5

V42  42 5  1.5

**

C33  33 0  2E-12

C39  39 0  0.02E-12

C40  40 0  0.02E-12

**

R33  33 0  6.4E6

R34  33 4  100

RQC  22 5  590

**

Q21  21 21  1 5  PI

Q22  21 24 22 1  NI 12

Q23  24 21  1 5  PI

Q24  24 24  5 1  NI

Q29  39 21  1 5  PI

Q30  40 24  5 1  NI

Q33   5 33 39 5  PI

Q34   1 33 40 1  NI

Q41  41 39  8 1  NIL 16

Q42  42 40  8 5  PIL 16

**

.MODEL PI PNP

.MODEL NI NPN

.MODEL NIL NPN (BF = 500)

.MODEL PIL PNP (BF = 500)

.ENDS
